### PR TITLE
[Merged by Bors] - feat(Matrix): rank of infinite matrices

### PR DESCRIPTION
**Pull request by apnelson1**
This PR is the first in a series that attempts to improve generality in the current API for matrix rank. 

At the moment, for `A : Matrix m n R`, the term `A.rank` is only well-defined for `Fintype n` and `CommRing R`. This is because the definition is in terms of `MulVecLin`, which requires these typeclass assumptions. The `Fintype` assumption, especially, is a little unfortunate, since it necessitates unnecessary and column/row-asymmetric `Fintype` assumptions throughout the API, and makes it impossible to state the important lemma `rank_transpose` for infinite matrices. 

We don't touch the current definition `Matrix.rank` directly here, but we introduce cardinal and ENat-valued notions of rank for infinite matrices, with basic API for monotonicity. The lemma `cRank_toNat_eq_rank` is a proof of concept - it shows that the current `Matrix.rank` could easily be redefined as `Matrix.rank A := (Matrix.cRank A).toNat` with a strict gain in generality, and no loss to the existing API. The plan is to do this, and thereby prove `rank_transpose` in greater generality, in coming PRs. 

The definition `Matrix.eRank` is  also natural, since `Matrix.eRank_transpose` will be true, but `Matrix.cRank_transpose` will not. 

[Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2322226.20Infinite.20matrix.20rank)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Rank.lean [hunk 1]
```diff
@@ -18,17 +18,99 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+  OrderHomClass.mono _ <| A.cRank_mono_col c
+
+lemma eRank_mono_row (A : Matrix m n R) (r : m₀ → m) : (A.submatrix r id).eRank ≤ A.eRank := by
+  obtain hlt | hle := lt_or_le A.cRank Cardinal.aleph0
+  · simpa using (toENat_le_iff_of_lt_aleph0 (by simpa)).2 <| A.cRank_lift_mono_row r
+  simp [eRank, toENat_eq_top.2 hle]
+
+lemma eRank_mono (A : Matrix m n R) (r : m₀ → m) (c : n₀ → n) :
+    (A.submatrix r c).eRank ≤ A.eRank :=
+  ((A.submatrix r id).eRank_mono_col c).trans (A.eRank_mono_row r)
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:93]: I'd argue you should drop the `row` and `col` versions(by inlining them into the proof, perhaps via a `calc`), since as soon as you prove `eRank_mono` they are useful.

This should probably be called `eRank_submatrix_le`

File: Mathlib/Data/Matrix/Rank.lean [hunk 2]
```diff
@@ -18,17 +18,93 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+open Module Cardinal Set Submodule
+
+variable {l m n o R : Type*}
+
+section Infinite
+
+variable {m₀ n₀ : Type*} [Semiring R] {A : Matrix m n R}
+
+/-- The rank of a matrix, defined as the dimension of its column space, as a cardinal. -/
+noncomputable def cRank [Semiring R] (A : Matrix m n R) : Cardinal :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:40]:
```suggestion
noncomputable def cRank (A : Matrix m n R) : Cardinal :=
```
you already have this assumption above.

**Review by madvorak — APPROVED** [review]

File: Mathlib/Data/Matrix/Rank.lean [hunk 3]
```diff
@@ -18,17 +18,91 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+    rw [LinearMap.map_span, ← image_univ, image_image, transpose_submatrix]
+    aesop
+  rw [cRank, ← h_eq]
+  have hwin := lift_rank_map_le f (span R (range Aᵀ))
+  simp_rw [← lift_umax] at hwin ⊢
+  exact hwin
+
+lemma cRank_mono_row.{u} {m m₀ : Type u} (A : Matrix m n R) (r : m₀ → m) :
+    (A.submatrix r id).cRank ≤ A.cRank  := by
+  simpa using A.cRank_lift_mono_row r
```
Comment (jcommelin) [inline Mathlib/Data/Matrix/Rank.lean:63]: Is it possible to unify these, giving a `cRank_submatrix_le` where you look at `A.submatrix r c` at once? I see that this is done for `eRank` below, so I expect there is some obstruction, but I don't understand what it is...

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Rank.lean:63]: I think we should have:
*  `lift_cRank_submatrix_le` (with fully general universes)
*  `cRank_submatrix_le` (with universe monomorphism, which is enough for `id`)

Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:63]: I did try this, and got frustrated by the universe issues in the full generality of the submatrix statement. I can have another go.

File: Mathlib/Data/Matrix/Rank.lean [hunk 4]
```diff
@@ -18,17 +18,105 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+    A.eRank.toNat = Module.finrank R (span R (range Aᵀ)) :=
+  toNat_toENat ..
+
+lemma eRank_submatrix_le (A : Matrix n o R) (r : l → n) (c : m → o) :
+    (A.submatrix r c).eRank ≤ A.eRank := by
+  obtain hle | hlt := le_or_lt aleph0 (A.submatrix id c).cRank
+  · simp [eRank, toENat_eq_top.2 <| hle.trans <| A.cRank_mono_col c]
+  refine le_trans ?_ <| OrderHomClass.mono _ <| A.cRank_mono_col c
+  simpa using (toENat_le_iff_of_lt_aleph0 (by simpa)).2 <|
+    (A.submatrix id c).lift_cRank_submatrix_le r id
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:99]: Do we still need to go via the `id` versions here now that the cRank version is generalized?

File: Mathlib/Data/Matrix/Rank.lean [hunk 5]
```diff
@@ -18,17 +18,90 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+/-- The rank of a matrix, defined as the dimension of its column space, as a cardinal. -/
+noncomputable def cRank (A : Matrix m n R) : Cardinal := Module.rank R <| span R <| range Aᵀ
+
+lemma cRank_toNat_eq_finrank (A : Matrix m n R) :
+    A.cRank.toNat = Module.finrank R (span R (range Aᵀ)) := rfl
+
+lemma cRank_mono_col (A : Matrix m n R) (c : n₀ → n) : (A.submatrix id c).cRank ≤ A.cRank := by
+  apply Submodule.rank_mono <| span_mono ?_
+  rintro _ ⟨x, rfl⟩
+  exact ⟨c x, rfl⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:49]: Please delete this lemma, it is strictly less general than `cRank_submatrix_le`.

File: Mathlib/Data/Matrix/Rank.lean [hunk 6]
```diff
@@ -18,17 +18,90 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+
+lemma lift_cRank_submatrix_le (A : Matrix m n R) (r : m₀ → m) (c : n₀ → n) :
+    lift.{um, max um₀ uR} (A.submatrix r c).cRank ≤ lift.{um₀, max um uR} A.cRank := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:52]:
```suggestion
    lift.{um} (A.submatrix r c).cRank ≤ lift.{um₀} A.cRank := by
```
you only have to provide the first universe argument to lift, the second is always determined by its argument

File: Mathlib/Data/Matrix/Rank.lean [hunk 7]
```diff
@@ -18,17 +18,90 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+/-- The rank of a matrix, defined as the dimension of its column space, as a term in `ℕ∞`. -/
+noncomputable def eRank (A : Matrix m n R) : ℕ∞ := A.cRank.toENat
+
+lemma eRank_toNat_eq_finrank (A : Matrix m n R) :
+    A.eRank.toNat = Module.finrank R (span R (range Aᵀ)) :=
+  toNat_toENat ..
+
+lemma eRank_submatrix_le (A : Matrix m n R) (r : m₀ → m) (c : n₀ → n) :
+    (A.submatrix r c).eRank ≤ A.eRank := by
+  simpa using OrderHom.mono (β := ℕ∞) Cardinal.toENat <| lift_cRank_submatrix_le A r c
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:85]: Nice, not sure how I missed this proof!

File: Mathlib/Data/Matrix/Rank.lean [hunk 8]
```diff
@@ -18,17 +18,90 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
 open Matrix
 
 namespace Matrix
 
-open Module
+open Module Cardinal Set Submodule
+
+universe um um₀ un un₀ uR uo ul
+variable {m : Type um} {m₀ : Type um₀} {n : Type un} {n₀ : Type un₀} {R : Type uR} {o : Type uo}
+    {l : Type ul}
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:34]:
```suggestion
universe ul um um₀ un un₀ uo uR
variable {l : Type ul} {m : Type um} {m₀ : Type um₀} {n : Type un} {n₀ : Type un₀} {o : Type uo}
variable {R : Type uR}
```

File: Mathlib/Data/Matrix/Rank.lean (hunk 5 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:49]: Sorry, I thought I had.

File: Mathlib/Data/Matrix/Rank.lean [hunk 9]
```diff
@@ -159,6 +229,9 @@ theorem rank_le_height [StrongRankCondition R] {m n : ℕ} (A : Matrix (Fin m) (
 theorem rank_eq_finrank_span_cols (A : Matrix m n R) :
     A.rank = finrank R (Submodule.span R (Set.range Aᵀ)) := by rw [rank, Matrix.range_mulVecLin]
 
+theorem cRank_toNat_eq_rank (A : Matrix m n R) : A.cRank.toNat = A.rank := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:232]: Perhaps
```suggestion
@[simp]
theorem toNat_cRank (A : Matrix m n R) : A.cRank.toNat = A.rank := by
```
and similary for the `eNat` version.

File: Mathlib/Data/Matrix/Rank.lean [hunk 10]
```diff
@@ -18,17 +18,87 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+  let f : (m → R) →ₗ[R] (m₀ → R) := LinearMap.funLeft R R r
+  have h_eq : Submodule.map f (span R (range Aᵀ)) = span R (range (A.submatrix r id)ᵀ) := by
+    rw [LinearMap.map_span, ← image_univ, image_image, transpose_submatrix]
+    aesop
+  rw [cRank, ← h_eq]
+  have hwin := lift_rank_map_le f (span R (range Aᵀ))
+  simp_rw [← lift_umax] at hwin ⊢
+  exact hwin
+
+/-- A copy of `lift_cRank_submatrix_le` for when `m₀` and `m` are in the same universe. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:60]:
```suggestion
/-- A special case of `lift_cRank_submatrix_le` for when `m₀` and `m` are in the same universe. -/
```

File: Mathlib/Data/Matrix/Rank.lean [hunk 11]
```diff
@@ -18,17 +18,87 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+  have hwin := lift_rank_map_le f (span R (range Aᵀ))
+  simp_rw [← lift_umax] at hwin ⊢
+  exact hwin
+
+/-- A special case of `lift_cRank_submatrix_le` for when `m₀` and `m` are in the same universe. -/
+lemma cRank_submatrix_le {m m₀ : Type um} (A : Matrix m n R) (r : m₀ → m) (c : n₀ → n) :
+    (A.submatrix r c).cRank ≤ A.cRank := by
+  simpa using lift_cRank_submatrix_le A r c
+
+lemma cRank_le_card_row [StrongRankCondition R] [Fintype m] (A : Matrix m n R) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:65]: This doesn't match `rank_le_card_width` further down the file.

I think `card_row` is misleading, since the cardinality of a row could be interepreted as the number of columns!

If you really do feel this new name is better, then please:
* Explain why in the PR description
* Rename and deprecate the `rank` lemmas using the old convention

File: Mathlib/Data/Matrix/Rank.lean [hunk 12]
```diff
@@ -18,17 +18,87 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
...
+
+/-- The rank of a matrix, defined as the dimension of its column space, as a term in `ℕ∞`. -/
+noncomputable def eRank (A : Matrix m n R) : ℕ∞ := A.cRank.toENat
 
-variable {l m n o R : Type*} [Fintype n] [Fintype o]
+lemma eRank_toNat_eq_finrank (A : Matrix m n R) :
+    A.eRank.toNat = Module.finrank R (span R (range Aᵀ)) :=
+  toNat_toENat ..
+
+lemma eRank_submatrix_le (A : Matrix m n R) (r : m₀ → m) (c : n₀ → n) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:80]: In keeping with the `rank` lemmas below, could you add the equality version for when `r` and `c` are `Equiv`s?

**Review by eric-wieser — COMMENTED** [review]
If we're going to triplicate the number of definitions here, I think we should do our best to provide the same API for all of them.

Obviously you can't do that easily for the `mul` stuff because of how those are finitary, but it would be good to have `rank_zero`, `rank_one`, `rank_diagonal`, and `rank_reindex` for the new spellings. I would guess those are straightforward, so I would prefer to see them as part of this PR.

File: Mathlib/Data/Matrix/Rank.lean (hunk 11 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:65]: Good point. Will change it after kid bedtime.

**Comment by apnelson1** [comment]
Happy to do that.

**Comment by apnelson1** [comment]
> If we're going to triplicate the number of definitions here, I think we should do our best to provide the same API for all of them.
> 
> Obviously you can't do that easily for the `mul` stuff because of how those are finitary, but it would be good to have `rank_zero`, `rank_one`, `rank_diagonal`, and `rank_reindex` for the new spellings. I would guess those are straightforward, so I would prefer to see them as part of this PR.

This is now done. The `diagonal` and `one` lemmas needed some new API showing that families coming from `Pi.single` are linearly independent under appropriate conditions (the existing lemma `Pi.linearIndependent_single` is stated in terms of sigma-types and is cumbersome to use directly, and the simplified versions required finiteness so won't work for this). So I added those. I also generalized the two existing reindex/submatrix lemmas for `rank` to not require square matrices. The `Fintype` assumptions can't be removed with the current definition, but easily could if `rank` were redefined in terms of `cRank`.

File: Mathlib/Data/Matrix/Rank.lean [hunk 13]
```diff
@@ -172,6 +305,28 @@ theorem rank_diagonal [Fintype m] [DecidableEq m] [DecidableEq R] (w : m → R)
...
+  have hrw : insert 0 (range (diagonal w)ᵀ) = insert 0 (range w') := by
+    suffices ∀ a, diagonal w a = 0 ∨ ∃ b, w b ≠ 0 ∧ diagonal w b = diagonal w a
+      by simpa [subset_antisymm_iff, subset_def, w']
+    simp_rw [or_iff_not_imp_right, not_exists, not_and, not_imp_not]
+    simp +contextual [funext_iff, diagonal, or_iff_not_imp_right]
+  rw [cRank, ← span_insert_zero, hrw, span_insert_zero, rank_span h,
+    ← lift_umax, ← Cardinal.mk_range_eq_of_injective h.injective, lift_id']
+
+theorem eRank_diagonal [DecidableEq m] (w : m → R) :
+    (diagonal w).eRank = ENat.card {i // (w i) ≠ 0} := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:327]:
```suggestion
    (diagonal w).eRank = {i | w i ≠ 0}.encard := by
```
is perhaps cleaner

File: Mathlib/Data/Matrix/Rank.lean [hunk 14]
```diff
@@ -114,15 +207,47 @@ theorem rank_submatrix_le [StrongRankCondition R] [Fintype m] (f : n → m) (e :
...
+    rank (A.submatrix em en) = rank A := by
+  simpa only [reindex_apply] using rank_reindex em.symm en.symm A
+
+theorem lift_cRank_reindex {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
+    lift.{um} (cRank (A.reindex em en)) = lift.{um₀} (cRank A) :=
+  (A.lift_cRank_submatrix_le em.symm en.symm).antisymm
+    <| by simpa using ((A.reindex em en).lift_cRank_submatrix_le em en)
+
+/-- A special case of `lift_cRank_reindex` for when the row types are in the same universe. -/
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:227]:
```suggestion
```
same for the other `reindex` lemmas. `reindex` is not simp-normal form.

File: Mathlib/Data/Matrix/Rank.lean [hunk 15]
```diff
@@ -114,15 +207,47 @@ theorem rank_submatrix_le [StrongRankCondition R] [Fintype m] (f : n → m) (e :
...
+theorem cRank_reindex {m₀ : Type um} {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
+    cRank (A.reindex em en) = cRank A := by
+  simpa using A.lift_cRank_reindex em en
+
+theorem lift_cRank_submatrix {n : Type un} (A : Matrix m n R) (em : m₀ ≃ m) (en : n₀ ≃ n) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:232]:
```suggestion
@[simp]
theorem lift_cRank_submatrix {n : Type un} (A : Matrix m n R) (em : m₀ ≃ m) (en : n₀ ≃ n) :
```

File: Mathlib/Data/Matrix/Rank.lean [hunk 16]
```diff
@@ -114,15 +207,47 @@ theorem rank_submatrix_le [StrongRankCondition R] [Fintype m] (f : n → m) (e :
...
+    (en : n₀ ≃ n) : cRank (A.submatrix em en) = cRank A := by
+  simpa using A.lift_cRank_submatrix em en
+
+@[simp]
+theorem eRank_reindex {m₀ : Type um} {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
+    eRank (A.reindex em en) = eRank A := by
+  simp [eRank]
+
+@[simp]
+theorem eRank_submatrix {m₀ : Type um} {n : Type un} (A : Matrix m n R) (em : m₀ ≃ m)
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:248]: This one shouldn't be universe-restricted.

File: Mathlib/Data/Matrix/Rank.lean [hunk 17]
```diff
@@ -114,15 +207,47 @@ theorem rank_submatrix_le [StrongRankCondition R] [Fintype m] (f : n → m) (e :
...
 
 @[simp]
-theorem rank_submatrix (A : Matrix l n R) (e₁ : m ≃ l) (e₂ : o ≃ n) :
-    rank (A.submatrix e₁ e₂) = rank A :=
-  rank_reindex e₁.symm e₂.symm A
+theorem rank_submatrix [Fintype n₀] (A : Matrix m n R) (em : m₀ ≃ m) (en : n₀ ≃ n) :
+    rank (A.submatrix em en) = rank A := by
+  simpa only [reindex_apply] using rank_reindex em.symm en.symm A
+
+theorem lift_cRank_reindex {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:221]:
```suggestion
theorem lift_cRank_reindex (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
```
since this variable already exists

Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:221]: It was the shortest way I could see to get rid of the `Fintype n` floating around.

File: Mathlib/Data/Matrix/Rank.lean (hunk 15 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:231]: I made this change, but it breaks two of the other `@[simp]` proofs by oversimplifying to `True`, so it has to be explicitly excluded from those simp calls. I don't have a good sense for the right decision in such cases.

File: Mathlib/Data/Matrix/Rank.lean (hunk 13 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean]: Yes, I agree. I've added a simp lemma for `ENat.card {x // P x}` more generally.

File: Mathlib/Data/Matrix/Rank.lean (hunk 17 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean:220]: Once `rank` is redefined, the global `Fintype` can probably just disappear, since most lemma statements won't need it.

File: Mathlib/Data/Matrix/Rank.lean (hunk 15 above)
Comment (jcommelin) [reply Mathlib/Data/Matrix/Rank.lean:231]: I think the explicit exclusion is fine, especially since you're in the process of setting up the API.

File: Mathlib/Data/Matrix/Rank.lean (hunk 13 above)
Comment (apnelson1) [reply Mathlib/Data/Matrix/Rank.lean]: Update - the @[simp] broke something elsewhere, so I've desimped it in the name of limiting scope.

File: Mathlib/Data/Matrix/Rank.lean [hunk 18]
```diff
@@ -114,15 +207,45 @@ theorem rank_submatrix_le [StrongRankCondition R] [Fintype m] (f : n → m) (e :
...
+  simpa [-lift_cRank_submatrix] using A.lift_cRank_submatrix em en
+
+theorem eRank_reindex {m₀ : Type um} {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
+    eRank (A.reindex em en) = eRank A := by
+  simp [eRank]
+
+@[simp]
+theorem eRank_submatrix {n : Type un} (A : Matrix m n R) (em : m₀ ≃ m) (en : n₀ ≃ n) :
+    eRank (A.submatrix em en) = eRank A := by
+  simpa [-lift_cRank_submatrix] using congr_arg Cardinal.toENat (A.lift_cRank_submatrix em en)
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:248]:
```suggestion
@[simp]
theorem eRank_submatrix {n : Type un} (A : Matrix m n R) (em : m₀ ≃ m) (en : n₀ ≃ n) :
    eRank (A.submatrix em en) = eRank A := by
  simpa [-lift_cRank_submatrix] using congr_arg Cardinal.toENat (A.lift_cRank_submatrix em en)

theorem eRank_reindex {m₀ : Type um} {n : Type un} (A : Matrix m n R) (em : m ≃ m₀) (en : n ≃ n₀) :
    eRank (A.reindex em en) = eRank A :=
  eRank_submatrix
```
and similarly for `cRank`

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
